US08669271B2
4-[2-(4-Methanesulfonyl-phenyl)-furo[2,3-b]pyrazin-6-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(2-chloro-furo[2,3-b]pyrazin-6-yl)-piperidine-1-carboxylic acid tert-butyl ester (200 mg), 4-(methanesulfonyl)phenyl boronic acid (140 mg), Na2CO3 (126 mg), water (2.5 mL), and N,N-dimethylformamide (2.5 mL) is sparged with argon for 10 min and Pd(PPh3)4 (15 mg) is added. The resulting mixture is stirred at 100° C. for 1.5 h. After cooling to room temperature, water and ethyl acetate are added. The organic phase is washed with brine, dried (MgSO4), and the solvent is evaporated. The residue is chromatographed on silica gel (ethyl acetate/cyclohexane 60:40) to give an oily residue that is triturated with diethyl ether and dried to afford the title compound as a colorless solid. Yield: 175 mg (65% of theory); LC (method 2): tR=1.35 min; Mass spectrum (ESI+): m/z=458 [M+H]+.

reactant | 4-(2-chloro-furo[2,3-b]pyrazin-6-yl)-piperidine-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=2C(=NC=C(N2)Cl)O1 | C16H20ClN3O3
reactant | 4-(methanesulfonyl)phenyl boronic acid | 140 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Na2CO3 | 126 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 2.5 mL | O | H2O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-Methanesulfonyl-phenyl)-furo[2,3-b]pyrazin-6-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=2C(=NC=C(N2)C2=CC=C(C=C2)S(=O)(=O)C)O1 | C23H27N3O5S
